US09326513B2
In a 50 mL two-neck flask, 2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethanone (2.0 g, 8.3 mmol) was dissolved in methanol (8 mL) and sodium borohydride (0.31 g, 8.3 mmol) was added carefully in portions with ice-bath cooling. The resultant colourless solution was stirred at RT for 2 hours and monitored by TLC. Upon the disappearance of all starting material, 5 mL of an aqueous saturated NH4Cl solution was slowly added to the reaction mixture with additional stirring for 10 min. The later was extracted 3 times with 20 mL of EtOAc and the organic fractions were combined and washed with 10 mL of brine, dried over Na2SO4, and filtered. The solvent was removed under reduced pressure to give 2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethanol (2.13 g, quantitative) as a colourless oil which was used with no further purification.

reactant | 2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethanone | 8.3 mmol, 2.0 g | FC(C(=O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C9H4F6O
reactant | sodium borohydride | 8.3 mmol, 0.31 g | [BH4-].[Na+]
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | methanol | 8 mL | CO | CH4O
product | 2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethanol | 2.13 g | FC(C(O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C9H6F6O
